US06500846B1
Synthesis of 2-(4-Chloro-phenyl)-7-methoxy-chromen-4-one (Compound 1)
50 mg (0.17 mmol) of 2-(4-chloro-phenyl)-7-methoxy-chroman-4-one synthesized in Preparation 4 and 3.0 molar equivalents (0.12 g, 0.51 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone was refuxed in benzene solvent for a day, and then benzene was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethylacetate=5/1, v/v) to give the title compound in a yield of 79%.

reactant | 2-(4-chloro-phenyl)-7-methoxy-chroman-4-one | 0.17 mmol, 50 mg | ClC1=CC=C(C=C1)C1OC2=CC(=CC=C2C(C1)=O)OC | C16H13ClO3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.51 mmol, 0.12 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-Chloro-phenyl)-7-methoxy-chromen-4-one | yield of 79% | ClC1=CC=C(C=C1)C=1OC2=CC(=CC=C2C(C1)=O)OC | C16H11ClO3
